Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Lamictal
 
Attending: ___.
 
Chief Complaint:
Left hip impingement, pain and decreased activity and range of 
motion. Failed conservative treatment
 
Major Surgical or Invasive Procedure:
Left reverse periacetabular osteotomy

 
History of Present Illness:
___ y/o female who has worsening pain and activity related to her 
left hip. This has not improved with conservative treatment. It 
has interfered with her activities of daily living and her 
ability to work. 
 
Past Medical History:
Asthma
Hip impingement
ADD

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
NAD, A&Ox3
NC, AT
EOMI, OMM
nonlabored respiration, equal chest wall expansion
heart rate regular by pulse
abdomen soft, NT
LLE: dressing c/d/I
 thigh soft
 ___ ___
 2+ DP pulse
 SILT distal
 
Pertinent Results:
___ 06:20AM BLOOD Hct-25.7*
___ 09:22PM BLOOD WBC-10.7* RBC-2.42*# Hgb-7.6*# Hct-22.2* 
MCV-92 MCH-31.4 MCHC-34.2 RDW-12.9 RDWSD-42.5 Plt ___
___ 06:03AM BLOOD Hct-23.3*#
___ 02:53PM BLOOD Glucose-74 UreaN-5* Creat-0.8 Na-139 
K-4.1 Cl-107 HCO3-22 AnGap-14
 
Brief Hospital Course:
Patient was admitted on the day of surgery and surgery was 
completed without complication. She had a lumbar plexus ___ 
and ___ placed just before surgery. Both were discontinued on 
POD 2. She was started on Lovenox daily on POD1 to prvent blood 
clots. On POD 1 she had tachycardia and decreased Hct. She was 
transfused 1 unit RBC's overnight. She had persistent 
tachycardia with activity on POD 2 and Hct of only 25. Patient 
was transfused an additional 1 unit allo RBC's with appropriate 
response. Her iv infiltrated towards the end of her second unit 
of allo RBC transfusion. She was examined and had ecchymosis to 
forearm but no compartment syndrome.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MethylPHENIDATE (Ritalin) 10 mg PO QAM 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
3. Fluoxetine 90 mg PO EVERY ___  

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
2. Fluoxetine 90 mg PO EVERY ___  
3. Diazepam ___ mg PO Q6H:PRN Spasm  
RX *diazepam 5 mg ___ tab by mouth every six (6) hours Disp #*60 
Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*1
5. Enoxaparin Sodium 40 mg SC DAILY Duration: 18 Days 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*18 
Syringe Refills:*0
6. Montelukast 20 mg PO QPM 
7. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*100 Tablet Refills:*0
8. MethylPHENIDATE (Ritalin) 10 mg PO QAM 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left hip impingement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Leave dressing on for 10 days after surgery. Then can remove. 
Leave steristrips in place

___ partial weight bearing left leg with crutches; ROM left hip: 
___ flexion-extension, ___ deg ___

follow up with Dr. ___ in 4 weeks (please call for 
appointment if not already scheduled)

Ok to resume regular diet

Take Lovenox for 3 weeks to prevent blood clots
 
Followup Instructions:
___